US07462629B2
To a solution of 3-[6-(2-trifluoromethyl-biphenyl-4-yloxymethyl)-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid tert-butyl ester (35 mg, 0.068 mmol) in CH2Cl2 (1 mL) is added TFA (1 mL). The mixture is stirred at room temperature for an hour. All the solvents are evaporated. The mixture is purified by reverse phase preparative LC/MS to give 3-[6-(2-trifluoromethyl-biphenyl-4-yloxymethyl)-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid:

reactant | 3-[6-(2-trifluoromethyl-biphenyl-4-yloxymethyl)-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid tert-butyl ester | 0.068 mmol, 35 mg | C(C)(C)(C)OC(CCN1CC2=CC=C(C=C2CC1)COC1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F)=O | C30H32F3NO3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-[6-(2-trifluoromethyl-biphenyl-4-yloxymethyl)-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid | FC(C1=C(C=CC(=C1)OCC=1C=C2CCN(CC2=CC1)CCC(=O)O)C1=CC=CC=C1)(F)F | C26H24F3NO3
